US06610889B2
Synthesis of N-Benzyl (S)-Proline Methyl Ester 5
Acetylchloride (9.26 mL, 130.28 mmol) was added dropwise to a stirred and cooled (0° C.) solution of (S)-proline (5 g, 43.42 mmol) in MeOH (86 mL). After the addition, the ice bath was removed and the stirring was continued for 15 h at room temperature. The solvent was then evaporated and the residual oil redissolved in dry CH3CN (70 mL). Et3N (18 mL, 130 mmol) and BnBr (6.20 mL, 52.10 mmol) were added to obtain a white suspension. After 12 h of stirring at room temperature, the CH3CN was evaporated, and the residue was partitioned between saturated NH4Cl (200 mL) and Et2O (200 mL). The phases were separated, the aqueous layer was extracted with Et2O (40 mL×2), and the combined organic phases were washed with water and brine, dried (MgSO4), and concentrated. The residue was purified over silica gel using 5 to 10% EtOAc/pet ether to give a clear oil (6.37 g, 69%): 1H NMR (300 MHz, CDCl3) δ 1.70-2.20 (m, 4 H), 2.32-2.46 (m, 1 H), 3.00-3.10 (m, 1 H), 3.20-3.30 (m, 1 H), 3.56 (d, J=12.7 Hz, 1 H), 3.64 (s, 3 H), 3.88 (d, J=12.7 Hz, 1 H), 7.25-7.35 (m, 5 H). The spectroscopic data agrees with literature values (Corey, E. J., Link, J. O.; J. Org. Chem. 1991, 56, 442).

reactant | Acetylchloride | 130.28 mmol, 9.26 mL | C(C)(=O)Cl | C2H3ClO
reactant | (S)-proline | 43.42 mmol, 5 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | Et3N | 130 mmol, 18 mL | CCN(CC)CC | C6H15N
reactant | BnBr | 52.10 mmol, 6.20 mL | C1=CC=C(C=C1)CBr | C7H7Br
solvent | MeOH | 86 mL | CO | CH4O
product | N-Benzyl (S)-Proline Methyl Ester | 6.37 g, 69% | COC([C@H]1N(CCC1)CC1=CC=CC=C1)=O | C13H17NO2
